US08487108B2
A mixture of methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate (20 mg, 0.03 mmol) and a 20% solution of TFA in CH2Cl2 (2 mL) were stirred for about 1 h at rt until the reaction was complete. The solvent was removed by evaporation and the crude product was purified by preparative HPLC to afford methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate (7.5 mg, 44% yield). 1H-NMR (400 MHz, CD3OD): 0.90 (m, 1H), 1.04 (m, 1H), 1.11-1.45 (m, 8H), 1.51 (m, 1H), 1.71 (m, 7H), 2.71 (s, 3H), 2.91 (m, 2H), 3.06 (m, 1H), 3.23 (m, 3H), 3.61 (s, 3H), 3.81 (m, 1H), 4.07 (m, 2H), 7.03 (m, 2H), 7.09 (m, 1H), 7.36 (m, 1H). MS (E/Z): 507 (M+H+).

reactant | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate | 0.03 mmol, 20 mg | C1(CCCCC1)C[C@@H](CN(C(=O)OC(C)(C)C)C)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC(=CC=C1)F | C32H51FN4O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate | 7.5 mg, 44% yield | C1(CCCCC1)C[C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC(=CC=C1)F | C27H43FN4O4
